US06096741
To a solution of 0.9 g (3.6 mmol) of 2-benzyloxyimino-3-methoxyiminobutyric acid in 15 ml of toluene, 0.5 g (4.0 mmol) of thionyl chloride and one drop of N,N-dimethylformamide were added and the mixture was stirred for 1 hour at 60° C. After cooling with an ice, 5 ml of 50% dimethylamine solution was added and the mixture was stirred for 0.5 hour at room temperature. 30 ml of water was added and the mixture was extracted three times with 50 ml of diethylether. After washing with water and a saturated aqueous sodium chloride, the organic layer was dried over with anhydrous magnesium sulfate and the solvent was distilled off to obtain a residue, which was then purified by a column chromatography on a silica gel (n-hexane/ethyl acetate) to obtain 0.53 g yield: 53%) of 2-benzyloxyimino-3-methoxyimino-N,N-dimethylbutyramide as a colorless oil.

reactant | 2-benzyloxyimino-3-methoxyiminobutyric acid | 3.6 mmol, 0.9 g | C(C1=CC=CC=C1)ON=C(C(=O)O)C(C)=NOC | C12H14N2O4
reactant | thionyl chloride | 4.0 mmol, 0.5 g | S(=O)(Cl)Cl | Cl2OS
reactant | dimethylamine | 5 ml | CNC | C2H7N
reactant | water | 30 ml | O | H2O
solvent | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
catalyst | N,N-dimethylformamide | one drop | CN(C=O)C | C3H7NO
product | 2-benzyloxyimino-3-methoxyimino-N,N-dimethylbutyramide | yield: 53% | C(C1=CC=CC=C1)ON=C(C(=O)N(C)C)C(C)=NOC | C14H19N3O3
